US07576072B2
Step J: Preparation of 6-(4-bromo-2-fluorophenylamino)-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid (2-vinyloxyethoxy)-amide:
To a solution of 6-(4-bromo-2-fluorophenylamino)-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid (1.00 equivalent) and HOBt (1.50 equivalents) is added EDCI (1.50 equivalents) at room temperature. After stirring for 1 hour, O-(2-vinyloxy-ethyl)-hydroxylamine (1.10 equivalents) and TEA (1.20 equivalents) are added. The reaction mixture is stirred for 1 hour and diluted with EtOAc. The resulting mixture is washed with saturated aqueous NH4Cl, brine, saturated aqueous NaHCO3, and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that is used directly without further purification.

reactant | 6-(4-bromo-2-fluorophenylamino)-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid | 1.00 equivalent | BrC1=CC(=C(C=C1)NC=1C(=C2C(=NC1C(=O)O)N(C=N2)C)F)F | C14H9BrF2N4O2
reactant | HOBt | 1.50 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.50 equivalents | CCN=C=NCCCN(C)C | C8H17N3
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 1.10 equivalents | C(=C)OCCON | C4H9NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(4-bromo-2-fluorophenylamino)-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid (2-vinyloxyethoxy)-amide | C(=C)OCCONC(=O)C1=C(C(=C2C(=N1)N(C=N2)C)F)NC2=C(C=C(C=C2)Br)F | C18H16BrF2N5O3
